US06897231B2
A. (3-Benzo[d]furan-2-yl(1H-indazol-5-yl))-N-[4-(dimethylamino)butyl]carboxamide
The title compound was prepared as described in Example 277 using of 3-benzo[d]furan-2-yl-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxylic acid (210 mg, 0.58 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (242 mg, 0.63 mmol) and 4-dimethylaminobutyl amine (139 mg, 1.2 mmol); (67 mg, 30% yield). 1H NMR (DMSO-d6) δ 13.8 (s, 1H), 8.7 (m, 2H), 8.0 (d, 1H), 7.6-7.8 (m, 4H), 7.4 (m, 2H), 3.3-3.6 (m, 4H), 2.3 (s, 6H), ES-MS (m/z) 377 [M+1]+.

reactant | 3-benzo[d]furan-2-yl-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxylic acid | 0.58 mmol, 210 mg | O1C(=CC2=C1C=CC=C2)C2=NN(C1=CC=C(C=C21)C(=O)O)C2OCCCC2 | C21H18N2O4
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.63 mmol, 242 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-dimethylaminobutyl amine | 1.2 mmol, 139 mg | CN(CCCCN)C | C6H16N2
product | (3-Benzo[d]furan-2-yl(1H-indazol-5-yl))-N-[4-(dimethylamino)butyl]carboxamide | 30% yield | O1C(=CC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)C(=O)NCCCCN(C)C | C22H24N4O2
